US05998433
c) Synthesis of 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-4-phenylbutan-1-one hydrochloride
1-(2-Dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-4-phenylbutan-1-one 0.161 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-4-phenylbutan-1-one | 0.161 g | CN(C)CC1=CC2=C(CN(CC2)C(CCCC2=CC=CC=C2)=O)O1 | C20H26N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-dimethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-4-phenylbutan-1-one hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(CCCC2=CC=CC=C2)=O)O1 | InChI=1S/C20H26N2O2.ClH/c1-21(2)14-18-13-17-11-12-22(15-19(17)24-18)20(23)10-6-9-16-7-4-3-5-8-16;/h3-5,7-8,13H,6,9-12,14-15H2,1-2H3;1H
